US05439928
c) 1-benzyl-5-(4,4-diphenylbutyl)-1H-imidazole
1-benzyl-5-(4,4-diphenyl-3-butenyl)-1H-imidazole hydrochloride salt is hydrogenated in ethanol as described in Example 1 c). M.p. of the product as hydrochloride is 200°-202° C.

reactant | 1-benzyl-5-(4,4-diphenyl-3-butenyl)-1H-imidazole hydrochloride salt | Cl.C(C1=CC=CC=C1)N1C=NC=C1CCC=C(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrochloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-benzyl-5-(4,4-diphenylbutyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1CCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H26N2
